US07732604B2
To a cooled (−78° C.) solution of oxalyl chloride (1.5 mL, 17 mmol) in dichloromethane (15 mL) was added dimethyl sulfoxide (2.45 mL, 34.5 mmol) drop wise keeping T<−70° C. After 30 minutes, a suspension of 1-[1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl]pyrrolidin-3-ol (1.00 g, 2.88 mmol) in dichloromethane (35 mL) was added keeping T<−70° C. After 1 hour 15 minutes, triethylamine (3.61 mL, 25.9 mmol) was added slowly, the dry-ice bath was removed, and the reaction was stirred for 2 hours. The reaction was quenched with water (50 mL), diluted with dichloromethane (150 ml), and separated. The aqueous layer was extracted with dichloromethane (2×50 mL) and the organics were combined and concentrated. The crude product was purified by flash chromatography using a Horizon purification system on a 40M column eluting with chloroform/methanol (0.5-8%) to afford 1-[1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl]pyrrolidin-3-one (401 mg, 40%).

reactant | oxalyl chloride | 17 mmol, 1.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 34.5 mmol, 2.45 mL | CS(=O)C | C2H6OS
reactant | 1-[1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl]pyrrolidin-3-ol | 2.88 mmol, 1.00 g | N1=CC=CC2=CC(=CC=C12)CN1N=NC=2C1=NC(=CN2)N2CC(CC2)O | C18H17N7O
reactant | triethylamine | 25.9 mmol, 3.61 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | 1-[1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl]pyrrolidin-3-one | 401 mg, 40% | N1=CC=CC2=CC(=CC=C12)CN1N=NC=2C1=NC(=CN2)N2CC(CC2)=O | C18H15N7O
